US07625889B2
Step 4: 4-{(4-Fluoro-benzoyl)-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-amino}-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester:
HATU was added to a solution of 4-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzylamino]-piperidine-1-carboxylic acid 2-trimethylsilany-1-ethyl ester, 4-fluorobenzoic acid and diisopropylethylamine and the resulting mixture stirred at ambient temperature overnight. The mixture was diluted with ethyl acetate washed with 1 M sodium carbonate solution. The layers were separated and the aqueous phase extracted with ethyl acetate. The combined organic phases were washed with brine, dried over magnesium sulfate, filtered and concentrated to leave the crude product. Chromatography (elution with diethyl ether/hexane, followed by ethyl acetate/hexane) provided 740 mg of product.

reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzylamino]-piperidine-1-carboxylic acid 2-trimethylsilany-1-ethyl ester | C[Si](CCOC(=O)N1CCC(CC1)NCC1=C(C=CC(=C1)C1=CC2=C(N(N=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)F)(C)C | C43H46FN5O2Si
reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-{(4-Fluoro-benzoyl)-[2-fluoro-5-(1-trityl-1H-benzotriazol-5-yl)-benzyl]-amino}-piperidine-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 740 mg | C[Si](CCOC(=O)N1CCC(CC1)N(CC1=C(C=CC(=C1)C1=CC2=C(N(N=N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)F)C(C1=CC=C(C=C1)F)=O)(C)C | C50H49F2N5O3Si
